US07872036B2
3.6 g (10.3 mmol) of trifluoroacetaldehyde {2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}hydrazone was dissolved in 30 ml of N,N-dimethylformamide, and 2.0 g of N-bromosuccinimide was added at room temperature, followed by stirring at room temperature for 2 hours. The resulting reaction mixture was poured into water and extracted with toluene, and the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 4.1 g of N-{2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}trifluoroacetohydrazonoyl bromide.

reactant | trifluoroacetaldehyde {2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}hydrazone | 10.3 mmol, 3.6 g | ClC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN=CC(F)(F)F | C11H9ClF6N2S
reactant | N-bromosuccinimide | 2.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-{2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}trifluoroacetohydrazonoyl bromide | 4.1 g | ClC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN=C(C(F)(F)F)Br | C11H8BrClF6N2S
